US04294960
A mixture of 4-nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-butoxyiminoacetamido]-3-methoxy-3-cephem-4-carboxylate (syn isomer, 1.7 g.), 10% palladium carbon (1 g.), water (3 ml.), acetic acid (0.3 ml.), methanol (20 ml.) and tetrahydrofuran (35 ml.) was treated in a similar manner to that of Example 15-(2) to give 7-[2-(2-formamidothiazol-4-yl)-2-butoxyiminoacetamido]-3-methoxy-3-cephem-4-carboxylic acid (syn isomer, 1 g.), yellow powder.

reactant | 4-nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-butoxyiminoacetamido]-3-methoxy-3-cephem-4-carboxylate | 1.7 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)OC)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOCCCC | C25H26N6O9S2
reactant | water | 3 ml | O | H2O
reactant | acetic acid | 0.3 ml | C(C)(=O)O | C2H4O2
reactant | methanol | 20 ml | CO | CH4O
catalyst | palladium carbon | 1 g | [C].[Pd]
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | 7-[2-(2-formamidothiazol-4-yl)-2-butoxyiminoacetamido]-3-methoxy-3-cephem-4-carboxylic acid | 1 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)OC)C(=O)O)C1=O)=NOCCCC | C18H21N5O7S2
